US07504408B2
4-{3-[(4-{[5-chloro-7-(pyridin-2-ylethynyl)-1,3-benzodioxol-4-yl]amino}-6-methoxyquinazolin-7-yl)oxy]propyl}-1-methylpiperazin-2-one
A solution of 4-[3-({4-[(5-chloro-7-iodo-1,3-benzodioxol-4-yl)amino]-6-methoxyquinazolin-7-yl}oxy)propyl]-1-methylpiperazin-2-one (0.17 g, 0.27 mmol), 2-ethynyl pyridine (0.056 g, 0.54 mmol) and diisopropylamine (0.075 ml, 0.54 mmol) in ethyl acetate (5 ml) was cooled to −20 C under a nitrogen atmosphere. To this was added copper (I) iodide (0.016 g, 0.081 mmol) and bis(triphenylphospine)palladium (II) chloride (0.038 g, 0.054 mmol). The reaction mixture was allowed to warm to ambient temperature and then stirred overnight. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was separated, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by flash chromatography on silica eluting with a mixture of 0-8% methanol in dichloromethane to give the product as a light brown solid (0.056 g, 35%). NMR Spectrum: (DMSOd6) 2.02 (m, 2H), 2.50 (t, 2H under DMSO), 2.72 (t, 2H), 2.84 (s, 3H), 3.01 (s, 2H), 3.28 (t, 2H under H2O), 3.94 (s, 3H), 4.20 (t, 2H), 6.23 (s, 2H), 7.21 (s, 1H), 7.32 (s, 1H), 7.45 (dd, 1H), 7.68 (d, 1H), 7.86 (m, 2H), 8.35 (s, 1H), 8.64 (d, 1H), 9.54 (s, 1H). Mass Spectrum: M+H+ 601 and M+H− 599.

reactant | 4-[3-({4-[(5-chloro-7-iodo-1,3-benzodioxol-4-yl)amino]-6-methoxyquinazolin-7-yl}oxy)propyl]-1-methylpiperazin-2-one | 0.27 mmol, 0.17 g | ClC1=C(C2=C(OCO2)C(=C1)I)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CC(N(CC1)C)=O | C24H25ClIN5O5
reactant | 2-ethynyl pyridine | 0.54 mmol, 0.056 g | C(#C)C1=NC=CC=C1 | C7H5N
reactant | diisopropylamine | 0.54 mmol, 0.075 ml | C(C)(C)NC(C)C | C6H15N
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) iodide | 0.081 mmol, 0.016 g | [Cu]I
catalyst | bis(triphenylphospine)palladium (II) chloride | 0.054 mmol, 0.038 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 4-{3-[(4-{[5-chloro-7-(pyridin-2-ylethynyl)-1,3-benzodioxol-4-yl]amino}-6-methoxyquinazolin-7-yl)oxy]propyl}-1-methylpiperazin-2-one | 0.056 g, 35% | ClC1=C(C2=C(OCO2)C(=C1)C#CC1=NC=CC=C1)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CC(N(CC1)C)=O | C31H29ClN6O5
